US09403798B2
4-[4-(4-Fluorophenyl)-5,6-dihydropyridin-1(2H)-yl]-1-{4-[(4-hydroxybenzyl)oxy]benzyl}-1,3,5-triazin-2(1H)-one
To a dichloromethane solution (8.0 mL) of 4-[4-(4-fluorophenyl)-5,6-dihydropyridin-1(2H)-yl]-1-(4-methoxybenzyl)-1,3,5-triazin-2(1H)-one (200 mg, 0.510 mmol) synthesized in Reference Synthesis Example 352, boron tribromide (1.53 mL, 1.53 mmol) was added at 0° C. and the resultant mixture was stirred at room temperature for 1 day. After the completion of the reaction, to the reaction solution, water was added and extraction with chloroform from the reaction solution was performed. The organic layer was concentrated under reduced pressure and the resultant residue was purified by silica gel column chromatography (chloroform/ethyl acetate→methanol/ethyl acetate) to obtain the title compound (35.0 mg, yield: 18%) of Synthesis Example 483a and the title compound (7.15 mg, yield: 3%) of Synthesis Example 483b.

reactant | dichloromethane | 8.0 mL | ClCCl | CH2Cl2
reactant | 4-[4-(4-fluorophenyl)-5,6-dihydropyridin-1(2H)-yl]-1-(4-methoxybenzyl)-1,3,5-triazin-2(1H)-one | 0.510 mmol, 200 mg | FC1=CC=C(C=C1)C1=CCN(CC1)C1=NC(N(C=N1)CC1=CC=C(C=C1)OC)=O | C22H21FN4O2
reactant | boron tribromide | 1.53 mmol, 1.53 mL | B(Br)(Br)Br | BBr3
solvent | water | O | H2O
product | 4-[4-(4-Fluorophenyl)-5,6-dihydropyridin-1(2H)-yl]-1-{4-[(4-hydroxybenzyl)oxy]benzyl}-1,3,5-triazin-2(1H)-one | 35.0 mg, yield: 18% | FC1=CC=C(C=C1)C1=CCN(CC1)C1=NC(N(C=N1)CC1=CC=C(C=C1)OCC1=CC=C(C=C1)O)=O | C28H25FN4O3
